US06562816B2
5-Phenylthiophene-2-carboxaldehyde (750 mg, 4 mmol) is dissolved in a mixture of THF, tBuOH, and water (2:1:1, 60miL). KH2PO4 (1.36 g, 10 mmol) is added followed by NaClO2 (900 mg, 10 mmol). The mixture is stirred at rt for 5 days. Aqueous NaOH (2M, 10 mL) is added and a majority of the organic solvents are removed in vacuo yielding an aqueous suspension. This suspension is diluted with water and washed with three times with CH2Cl2. The aqueous layer is acidified to pH<2 with 25% H2SO4 and the product is extracted three times with CH2Cl2. The combined organic washes are dried over Na2SO4, filtered and concentrated in vacuo to yield 417 mg (51%) of 5-phenylthiophene-2-carboxylic acid. MS for C11H8O2S, (ES) m/z: 203 (M−H)−.

reactant | 5-Phenylthiophene-2-carboxaldehyde | 4 mmol, 750 mg | C1(=CC=CC=C1)C1=CC=C(S1)C=O | C11H8OS
reactant | KH2PO4 | 10 mmol, 1.36 g | OP(=O)(O)[O-].[K+]
reactant | NaClO2 | 10 mmol, 900 mg | [O-]Cl=O.[Na+]
reactant | NaOH | 2M, 10 mL | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | tBuOH | CC(C)(C)O | C4H10O
solvent | water | O | H2O
product | 5-phenylthiophene-2-carboxylic acid | 417 mg, 51% | C1(=CC=CC=C1)C1=CC=C(S1)C(=O)O | C11H8O2S
